US06384080B1
To a solution of (S)-2-(2-bromo-1-methylethylamino)-5-cyano-N-(3,4-dimethoxybenzyl)benzamide (117 mg) in dimethylsulfoxide (2 mL) was added sodium cyanide (26.5 mg), and the mixture was stirred for an hour at 90° C. The resulting mixture was diluted with ethyl acetate and washed successively with water and brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The residue was subjected to a silica gel column chromatography eluting with a mixture of chloroform and ethyl acetate (9:1) to give (S)-5-cyano-2-(2-cyano-1-methylethylamino)-N-(3,4-dimethoxybenzyl)benzamide (73 mg) as a solid substance.

reactant | (S)-2-(2-bromo-1-methylethylamino)-5-cyano-N-(3,4-dimethoxybenzyl)benzamide | 117 mg | BrC[C@H](C)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)C#N | C20H22BrN3O3
reactant | sodium cyanide | 26.5 mg | [C-]#N.[Na+]
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-5-cyano-2-(2-cyano-1-methylethylamino)-N-(3,4-dimethoxybenzyl)benzamide | 73 mg | C(#N)C=1C=CC(=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C1)N[C@H](CC#N)C | C21H22N4O3
